US05668291
2,2'-Dithiobis[N-(3,4-dimethylphenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (1.12 g, 3.26 mmol) in 25 mL of dichloromethane and 3,4-dimethylaniline (0.79 g, 6.52 mmol) in 8 mL of pyridine. The crude product was triturated with ethyl ether and filtered to yield 0.28 g of the title compound, mp 224°-227° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 3.26 mmol, 1.12 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3,4-dimethylaniline | 6.52 mmol, 0.79 g | CC=1C=C(N)C=CC1C | C8H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3,4-dimethylphenyl)benzamide] | 0.28 g | CC=1C=C(C=CC1C)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC=C1)=O | C30H28N2O2S2
